US06087359
To a solution of N-[(4-fluorophenyl)-sulfonyl]-D-valine, 1,1-dimethylethyl ester, from Example 1b (3.0 g, 9.06 mmol) in 35 mL DMF was added m-thiocresol (3.23 mL, 27.2 mmol) and powdered K2CO3 (3.76 g, 27.2 mmol). The mixture was heated to 70° C. for 20 hours. After cooling to room temperature, the solution is washed with H2O (4×100 mL), and sat'd NaCl (2×100 mL), and dried over Mg2SO4. After concentration in vacuo, the residue was purified by flash chromatography (10:90 EtOAc/hexane) to afford N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl]-D-valine, 1,1-dimethylethyl ester, as a white solid (3.95 g, quantitative yield): MS MH+ calc'd for C22H29NO4S2 : 436, found: 436. Anal. calc'd for C22H29NO4S2 : C, 60.66; H, 6.71; N, 3.22; Found: C, 60.57; H, 6.47; N, 3.14.

reactant | N-[(4-fluorophenyl)-sulfonyl]-D-valine, 1,1-dimethylethyl ester | FC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(C)C)C(=O)OC(C)(C)C | C15H22FNO4S
reactant | m-thiocresol | 27.2 mmol, 3.23 mL | CC1=CC(=CC=C1)S | C7H8S
reactant | K2CO3 | 27.2 mmol, 3.76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl]-D-valine, 1,1-dimethylethyl ester | CC=1C=C(C=CC1)SC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(C)C)C(=O)OC(C)(C)C | C22H29NO4S2
